US03998879
Reaction of equimolar amounts of 5,5-dimethyl-1,3-cyclohexanedione with benzenesulfonylisocyanate in benzene according to the procedure of Example 1 affords 5,5-DIMETHYL-2-(N-BENZENESULFONYLCARBAMOYL)-1,3-CYCLOHEXANEDIONE, m.p. 101°-103° C. (corr.).

reactant | 5,5-dimethyl-1,3-cyclohexanedione | CC1(CC(CC(C1)=O)=O)C | C8H12O2
reactant | benzenesulfonylisocyanate | C1(=CC=CC=C1)S(=O)(=O)N=C=O | C7H5NO3S
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 5,5-DIMETHYL-2-(N-BENZENESULFONYLCARBAMOYL)-1,3-CYCLOHEXANEDIONE | CC1(CC(C(C(C1)=O)C(NS(=O)(=O)C1=CC=CC=C1)=O)=O)C | C15H17NO5S
